US05332807
Following the procedure given in example 29, t-butyldimethylsiloxypropanol (prepared according to the method of McDougal et al, J. Org. Chem. 1986, 51, 3388) is first reacted with methanesulfonyl chloride in methylene chloride in the presence of triethylamine, and then the crude mesylate is reacted with tetra-n-butylammonium azide in benzene to afford 1-azido-3-t-butylsiloxypropane.

reactant | t-butyldimethylsiloxypropanol | O([Si](C)(C)C(C)(C)C)C(CC)O | C9H22O2Si
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | tetra-n-butylammonium azide | [N-]=[N+]=[N-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-azido-3-t-butylsiloxypropane | N(=[N+]=[N-])CCCO[SiH2]C(C)(C)C | C7H17N3OSi
